US06388084B1
A solution of N-[(2-chloro-6-methylphenyl)carbonyl]-4-(1-benzyl-5-chloro-2-oxo-pyridinyl)-L-phenylalanine methyl ester (72 mg, 0. 13 mmol) in THF (3 mL) was treated with a solution of lithium hydroxide monohydrate (22 mg, 0.52 mmol) in water (1.0 mL). Additional THF was added to effect a clear solution and the reaction mixture was stirred 1.5 hr at which time, TLC (ethyl acetate) indicated starting material was consumed. A few drops of acetic were added and the entire reaction mixture was applied to a 4×30 cm, C-18 reversed phase HPLC column and eluted with a linear gradient of acetonitrile in water of 5 to 95% over 35 min. The product containing fraction was lyophillyzed to give 4-(1-benzyl-5-chloro-2-oxo-3-pyridinyl)-N-[(2-chloro-6-methylphenyl)carbonyl] -L-phenylalanine (50 mg, 71%) as a white solid. LR-Electrospray: m/z negative ion 533 (M−H (2 Cl)); positive ion 557(M+Na), 552 (M+NH4), 535 (M+H (2 Cl)). HRMS: Obs. Mass 535.1190. Calcd. Mass 535.1191 (M+H).

reactant | N-[(2-chloro-6-methylphenyl)carbonyl]-4-(1-benzyl-5-chloro-2-oxo-pyridinyl)-L-phenylalanine methyl ester | 13 mmol, 72 mg | COC([C@@H](NC(=O)C1=C(C=CC=C1C)Cl)CC1=CC=C(C=C1)C=1C(N(C=C(C1)Cl)CC1=CC=CC=C1)=O)=O | C30H26Cl2N2O4
reactant | lithium hydroxide monohydrate | 0.52 mmol, 22 mg | O.[OH-].[Li+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | 1.0 mL | O | H2O
product | 4-(1-benzyl-5-chloro-2-oxo-3-pyridinyl)-N-[(2-chloro-6-methylphenyl)carbonyl] -L-phenylalanine | 50 mg, 71% | C(C1=CC=CC=C1)N1C(C(=CC(=C1)Cl)C1=CC=C(C[C@H](NC(=O)C2=C(C=CC=C2C)Cl)C(=O)O)C=C1)=O | C29H24Cl2N2O4
